US04254155
Neohesperidin dihydrochalcone (10 g) and sorbitol (50 g) were mixed together and were heated to 140° C. to 170° C. (water or alcohol in appropriate quantities may be used to assist dissolution of the starting material). The liquified mixture was cooled to about 60° C. to 70° C., and the pH of the solution was adjusted to 5.5 to 6.0 by the addition of citric acid or malic acid. Then a mixture of disodium 5'--inosinate and disodium 5'--guanylate (0.016 g), which is commercially obtained as ribotide, was added and the entire mixture was dried by conventional methods. The dried mixture was ground into a fine powder. The resulting composition had excellent solubility in aqueous solution and gave an immediate sweet taste with no methanol-like aftertaste. This composition may be used to sweeten beverages and other food products.

reactant | Neohesperidin dihydrochalcone | 10 g | C[C@H]1[C@@H]([C@H]([C@H]([C@@H](O1)O[C@@H]2[C@H]([C@@H]([C@H](O[C@H]2OC=3C=C(C(=C(C3)O)C(=O)CCC=4C=CC(=C(C4)O)OC)O)CO)O)O)O)O)O | C28H36O15
reactant | sorbitol | 50 g | OC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H14O6
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | malic acid | C(C(O)CC(=O)O)(=O)O | C4H6O5
reactant | disodium 5'--inosinate | [C@@H]1([C@H](O)[C@H](O)[C@@H](C(O)C(=O)[O-])O1)N1C=NC=2C(O)=NC=NC12.[Na+].[Na+].[C@@H]1([C@H](O)[C@H](O)[C@@H](C(O)C(=O)[O-])O1)N1C=NC=2C(O)=NC=NC12
reactant | disodium 5'--guanylate | 0.016 g | C1=NC2=C(N1[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)([O-])[O-])O)O)NC(=NC2=O)N.[Na+].[Na+]
solvent | water | O | H2O
product | ribotide | C1=NC(=O)C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)([O-])[O-])O)O.[Na+].[Na+] | InChI=1S/C10H13N4O8P.2Na/c15-6-4(1-21-23(18,19)20)22-10(7(6)16)14-3-13-5-8(14)11-2-12-9(5)17;;/h2-4,6-7,10,15-16H,1H2,(H,11,12,17)(H2,18,19,20);;/q;2*+1/p-2/t4-,6-,7-,10-;;/m1../s1
